US07902252B2
2.98. Synthesis of 4-(3-(pyridin-3-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (83)
The title compound was synthesized from (E)-methyl 4-(3-(pyridin-3-yl)benzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.051 g, 0.15 mmol) and lithium hydroxide (0.067 g, 1.6 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound. 15.0 mg, 31% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.08-2.21 (m, 1H), 2.52-2.63 (m, 3H), 2.79-2.94 (m, 2H), 3.33-3.36 (m, 1H), 6.34 (s, 1H), 7.28 (d, J=7.57 Hz, 1H), 7.39-7.44 (m, 2H), 7.46-7.51 (m, 2H), 8.04 (dt, J=8.02, 1.90 Hz, 1H), 8.49 (dd, J=4.88, 1.46 Hz, 1H), 8.76 (d, J=2.00 Hz, 1H); LCMS-MS (ESI−) 317.2 (M−H); HPLC (UV=96.4%), (ELSD=100%).

reactant | (E)-methyl 4-(3-(pyridin-3-yl)benzylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.15 mmol, 0.051 g | N1=CC(=CC=C1)C=1C=C(\C=C\2/CCC=3NC(=CC32)C(=O)OC)C=CC1 | C21H18N2O2
reactant | lithium hydroxide | 1.6 mmol, 1 mL, 0.067 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(3-(pyridin-3-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | N1=CC(=CC=C1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C20H18N2O2
